US04294847
A solution of 8-allyl-7-hydroxy-4-methylcoumarin (61.0 g, 0.282 mol) and a few pinches of anhydrous sodium acetate in boiling acetic anhydride (480 ml.) was allowed to relux for four hours with magnetic stirring. The cooled brown mixture was then poured into water (1750 ml.) with magnetic stirring. The mixture was allowed to stir for half an hour. A brown precipitate was collected by filtration, washed with water, and dried in vacuo to obtain 7-acetoxy-4-methyl-8-allylcoumarin (68.5 g. 94% yield), mp. 98.8°-99.8° C. (lit.2 87°-87.5° C.).

reactant | 8-allyl-7-hydroxy-4-methylcoumarin | 0.282 mol, 61.0 g | C(C=C)C=1C(=CC=C2C(=CC(OC12)=O)C)O | C13H12O3
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 480 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 1750 ml | O | H2O
product | 7-acetoxy-4-methyl-8-allylcoumarin | 68.5 g, 94% yield | C(C)(=O)OC1=CC=C2C(=CC(OC2=C1CC=C)=O)C | C15H14O4
